US08247421B2
Step 3: 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 3-bromo-5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine (1.0 g, 2.75 mmol), bis(pinacolato)diboron (1.046 g, 4.12 mmol) and potassium acetate (0.851 g, 8.67 mmol) in dioxane (25 mL) was degassed and stirred under nitrogen for 30 minutes. The reaction mixture was treated with tetrakis(triphenylphosphine)palladium(0) (0.317 g, 0.27 mmol) and degassed again. The reaction mixture was then heated at reflux for 16 hours. The resulting mixture was cooled down to room temperature and filtered through a pad of celite washing with ethyl acetate. The filtrate was concentrated in vacuo and purified on florisil by flash column chromatography to afford the title compound as a white solid (0.779 g, 69% yield).

reactant | 3-bromo-5-methyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 2.75 mmol, 1.0 g | BrC1=CN(C2=NC=C(C=C21)C)S(=O)(=O)C2=CC=C(C)C=C2 | C15H13BrN2O2S
reactant | bis(pinacolato)diboron | 4.12 mmol, 1.046 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.67 mmol, 0.851 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.27 mmol, 0.317 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.779 g, 69% yield | CC=1C=C2C(=NC1)N(C=C2B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C)C=C2 | C21H25BN2O4S
